US04470972
Dissolve 1.4 g of 7-[N-benzyloxycarbonyl-(S)-alanyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid in 20 ml of 20% hydrobromic acid in glacial acetic acid and stir the mixture at room temperature for two hours. Add the mixture dropwise to diethyl ether at 0°-5° C. to give 7-[(S)-alanyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid hydrobromide which is used immediately in the process described in paragraph F below.

reactant | 7-[N-benzyloxycarbonyl-(S)-alanyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid | 1.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1CC2(SCCS2)C[C@H]1C(=O)O | C18H22N2O5S2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hydrobromic acid | 20 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-[(S)-alanyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid hydrobromide | Br.N[C@@H](C)C(=O)N1CC2(SCCS2)C[C@H]1C(=O)O | InChI=1S/C10H16N2O3S2.BrH/c1-6(11)8(13)12-5-10(16-2-3-17-10)4-7(12)9(14)15;/h6-7H,2-5,11H2,1H3,(H,14,15);1H/t6-,7-;/m0./s1
